US09376422B2
Step 5: methyl 5-chloro-3-(cyclohexyl(methyl)amino)-2-methylbenzoate (6)
To a stirred solution of methyl 5-chloro-3-(cyclohexylamino)-2-methylbenzoate (1.4 g, 0.0049 mole) in acetonitrile (10 mL), cesium carbonate (3.2 g, 0.0099 mole) and methyl iodide (3.5 g, 0.0024 mole) were added; resulting reaction mass was heated at 80° C. for 13 h. On completion, reaction mass was cooled to room temperature and filtered, residue was washed with ethyl acetate and filtrate was concentrated and then purified by column chromatography to afford desired compound (800 mg, 55%).

reactant | methyl 5-chloro-3-(cyclohexylamino)-2-methylbenzoate | 0.0049 mole, 1.4 g | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCCC1 | C15H20ClNO2
reactant | cesium carbonate | 0.0099 mole, 3.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.0024 mole, 3.5 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 5-chloro-3-(cyclohexyl(methyl)amino)-2-methylbenzoate | 800 mg, 55% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C)C1CCCCC1 | C16H22ClNO2
